US06008230
A mixture of 3-bromo-8-(3-carboxybenzoylamino)quinoline (200 mg), dimethylamine hydrochloride (65.9 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (100 mg) and 1-hydroxybenzotriazole (109 mg) in dimethylformamide (3 ml) was stirred for 3 hours at ambient temperature. The mixture was diluted with ethyl acetate, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (ethyl acetate) and recrystallized from ethanol to give 3-bromo-8-[3-(dimethylcarbamoyl)benzoylamino]quinoline (120 mg) as pale yellow solid.

reactant | 3-bromo-8-(3-carboxybenzoylamino)quinoline | 200 mg | BrC=1C=NC2=C(C=CC=C2C1)NC(C1=CC(=CC=C1)C(=O)O)=O | C17H11BrN2O3
reactant | dimethylamine hydrochloride | 65.9 mg | Cl.CNC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 100 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 109 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-8-[3-(dimethylcarbamoyl)benzoylamino]quinoline | 120 mg | BrC=1C=NC2=C(C=CC=C2C1)NC(C1=CC(=CC=C1)C(N(C)C)=O)=O | C19H16BrN3O2
